US07888364B2
50 mg of 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 2,5-diaminopyridine via Procedure G. The prodcut was purified on reverse phase HPLC to yield N1-(6-aminopyridin-3-yl)-N4-(4-chloro-3-(pyridin-2-yl)phenyl)terephthalamide. MS (Q1) 444 (M)+.

reactant | 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 50 mg | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(=O)O)C=C1)C1=NC=CC=C1 | C19H13ClN2O3
reactant | 2,5-diaminopyridine | NC1=NC=C(C=C1)N | C5H7N3
product | N1-(6-aminopyridin-3-yl)-N4-(4-chloro-3-(pyridin-2-yl)phenyl)terephthalamide | NC1=CC=C(C=N1)NC(C1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)=O | C24H18ClN5O2
